US06291455B1
A mixture of 4-chloro-6,7-dimethoxyquinazoline hydrochloride (130 mg, 0.5 mmol), (prepared as described for the starting material in Example 2), and 2-fluoro-4-methylaniline (63 mg, 0.5 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool to ambient temperature, the precipitated solid was collected by filtration, washed with isopropanol and ether and dried to give 4-(2-fluoro-4-methylanilino)-6,7-dimethoxyquinazoline hydrochloride (87 mg, 50%) as an off-white solid.

reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 0.5 mmol, 130 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
reactant | 2-fluoro-4-methylaniline | 0.5 mmol, 63 mg | FC1=C(N)C=CC(=C1)C | C7H8FN
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-4-methylanilino)-6,7-dimethoxyquinazoline hydrochloride | 87 mg, 50% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | InChI=1S/C17H16FN3O2.ClH/c1-10-4-5-13(12(18)6-10)21-17-11-7-15(22-2)16(23-3)8-14(11)19-9-20-17;/h4-9H,1-3H3,(H,19,20,21);1H
